US05190687
70 mmol (22.7 g) of 10-iododecyl allyl ether, 70 mmol (10.6 g) of methyl p-hydroxybenzoate, and 70 mmol (9.6 g) of potassium carbonate were refluxed in absolute ethanol for 15 hours. After addition of an aqueous potassium hydroxide solution (containing 4.0 g of potassium hydroxide) into the reaction solution, the resulting mixture was further heated at 80° C. for 5 hours. After conclusion of the reaction, the reaction solution was acidified with hydrochloric acid, and the acidified reaction solution was then concentrated under reduced pressure. Water was added to the residue to form a suspension, and the insoluble matter was collected and was then dried, to obtain 18.7 g of 4-(10-allyloxydecyloxy)benzoic acid. (Yield: 80%)

reactant | 10-iododecyl allyl ether | 70 mmol, 22.7 g | C(C=C)OCCCCCCCCCCI | C13H25IO
reactant | methyl p-hydroxybenzoate | 70 mmol, 10.6 g | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | potassium carbonate | 70 mmol, 9.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 4.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-(10-allyloxydecyloxy)benzoic acid | 18.7 g, Yield: 80% | C(C=C)OCCCCCCCCCCOC1=CC=C(C(=O)O)C=C1 | C20H30O4
